US04745218
(a) Production of (S)-N-(2', 2'-Dimethyl-propylidene)-methionine Mono-Methylamide
There were added to 40.0 grams (247 mmoles) of (S)-methionine mono-methylamide dissolved in 100 ml of n-pentane 27.5 ml (250 mmoles) of pivalaldehyde. The reaction mixture was boiled on the water separator until the formation of water ended (3 hours). The solvent was removed under reduced pressure and there remained behind 52.2 grams (92% of theory) of (S)-N-(2', 2'- dimethylpropylidene)-methionine mono-methylamide which was further processed without further purification.

reactant | (S)-methionine mono-methylamide | 247 mmoles, 40.0 grams | CNC([C@@H](N)CCSC)=O | C6H14N2OS
reactant | n-pentane | 250 mmoles, 100 ml | CCCCC | C5H12
reactant | water | O | H2O
reactant | pivalaldehyde | C(C(C)(C)C)=O | C5H10O
product | (S)-N-(2', 2'-Dimethyl-propylidene)-methionine Mono-Methylamide | CNC([C@@H](N=CC(C)(C)C)CCSC)=O | C11H22N2OS
